US08748442B2
To a solution of methyl 4,6-diamino-2-(1-(2-fluorobenzyl)-5-(oxazol-2-yl)-1H-pyrazol-3-yl)pyrimidin-5-yl(methyl)carbamate (82 mg, 0.19 mmol) in DMF (3.7 mL) at 0° C. was added sodium hydride (60% dispersion in mineral oil, 15 mg, 0.37 mmol). The solution was immediately warmed to ambient temperature and stirred for 45 min. Water (3 mL) was added, and after stirring for 5 minutes, the crude reaction mixture was diluted with ethyl acetete (100 mL) and water (75 mL) and the layers were separated. The aqueous layer was extracted with ethyl acetate (2×50 mL). The organics were combined, washed with water (2×50 mL) and brine (50 mL), dried over magnesium sulfate, and filtered. The solvent was removed in vacuo to give the crude product as an orange solid. The crude material was brought up in ether (10 mL) and the orange solid was filtered off. The procedure was repeated to give 6-amino-2-(1-(2-fluorobenzyl)-5-(oxazol-2-yl)-1H-pyrazol-3-yl)-7-methyl-7H-purin-8(9H)-one (51 mg, 0.13 mmol, 67% yield) as a pink solid. 1H NMR (400 MHz, DMSO): δ 11.57 (s, 1H), 8.31 (s, 1H), 7.41 (s, 1H), 7.35-7.31 (m, 2H), 7.25-7.20 (m, 1H), 7.12 (t, 1H), 6.96-6.93 (m, 1H), 6.65 (s, 2H), 6.01 (s, 2H), 3.45 (s, 3H).

reactant | methyl 4,6-diamino-2-(1-(2-fluorobenzyl)-5-(oxazol-2-yl)-1H-pyrazol-3-yl)pyrimidin-5-yl(methyl)carbamate | 0.19 mmol, 82 mg | NC1=NC(=NC(=C1N(C(OC)=O)C)N)C1=NN(C(=C1)C=1OC=CN1)CC1=C(C=CC=C1)F | C20H19FN8O3
reactant | sodium hydride | 0.37 mmol, 15 mg | [H-].[Na+]
solvent | DMF | 3.7 mL | CN(C)C=O | C3H7NO
solvent | water | 75 mL | O | H2O
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | Water | 3 mL | O | H2O
product | 6-amino-2-(1-(2-fluorobenzyl)-5-(oxazol-2-yl)-1H-pyrazol-3-yl)-7-methyl-7H-purin-8(9H)-one | 0.13 mmol, 51 mg, 67% yield | NC1=C2N(C(NC2=NC(=N1)C1=NN(C(=C1)C=1OC=CN1)CC1=C(C=CC=C1)F)=O)C | C19H15FN8O2
